US06136821
B. 6-Trifluoromethylsulfonyloxy-8-methoxy-1,7-naphthyridine
To a solution of 6-amino-8-methoxy-1,7-naphthyridine (19 g, 0.108 mol) in a 1:1 mixture of water and trifluoromethane sulfonic acid (380 ml) is carefully added a solution of sodium nitrite (11.2 g, 0.162 mol) in water (40 ml) at 0° C. After 1 h the cooling bath is removed and the reaction mixture stirred for an other hour at ambient temperature. Then, ethyl acetate (500 ml) is added and the solution is neutralized by adding sodium bicarbonate (4N, 1 l). The water phase is extracted again with ethyl acetate (3×500 ml). The organic solvent is evaporated and the crude product is purified by flash column chromatography on silica gel (20:3 toluene/acetone) affording the title compound. M+308; Melting point 99-101° C.

reactant | 6-amino-8-methoxy-1,7-naphthyridine | 0.108 mol, 19 g | NC=1C=C2C=CC=NC2=C(N1)OC | C9H9N3O
reactant | trifluoromethane sulfonic acid | 380 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium nitrite | 0.162 mol, 11.2 g | N(=O)[O-].[Na+]
solvent | water | 40 ml | O | H2O
product | 6-Trifluoromethylsulfonyloxy-8-methoxy-1,7-naphthyridine | FC(S(=O)(=O)OC=1C=C2C=CC=NC2=C(N1)OC)(F)F | C10H7F3N2O4S
